US09062028B2
Step A. 3-(Cyclopropylamino)propane-1-sulfonic acid
To a solution of 1,3-propane sultone (2.246 g, 18.39 mmol) in THF (20.0 mL) was added cyclopropanamine (1.214 mL, 17.51 mmol) at room temperature. Upon completion of addition, the reaction mixture was stirred at 40° C. for 30 min, at which point the mixture became a thick white paste. At the conclusion of this period, the reaction mixture was vigorously stirred at 65° C. for 2 h. After cooling to room temperature, the resulting solid was collected by filtration to afford the tilted compound (0.522 g, 17% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.67 (br. s, 1H), 3.12 (t, J=6.9 Hz, 2H), 2.72-2.63 (m, 1H), 2.60 (t, J=6.8 Hz, 2H), 2.51-2.46 (m, 1H), 1.97-1.85 (m, 2H), 0.79-0.70 (m, 4H).

reactant | 1,3-propane sultone | 18.39 mmol, 2.246 g | C1COS(=O)(=O)C1 | C3H6O3S
reactant | cyclopropanamine | 17.51 mmol, 1.214 mL | C1(CC1)N | C3H7N
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
product | 3-(Cyclopropylamino)propane-1-sulfonic acid | 0.522 g, 17% yield | C1(CC1)NCCCS(=O)(=O)O | C6H13NO3S
